Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ G3P3 with recently diagnosed pelvic masses on imaging
done for intermittent abdominal pain, who presented to the ED
tonight for recurrence of her severe abdominal pain. 

She reports no pain since her recent visit with Dr. ___
this afternoon when she went for a walk and returned with severe
lower abdominal pain. According to her daughter, the pain was
across her lower abdomen. The patient localized the pain more to
the right lower quadrant. Also developed N/V this afternoon,
mostly related to the severe pain. 

Had relief of her pain with IV morphine in the ED. 

Denies fevers, chills, VB, chest pain, SOB. Eats little at
baseline but has had a decreased appetite.
 
Past Medical History:
Health maintenance: 
- Colonoscopy ___ ago
- Mammogram within ___ year
- Last BMD: uncertain

PObHx: G3P3
- SVD x 3

GYNHx: 
- Denies h/o PMB, abnormal pap smears, STIs. 

PMHx:
- Stroke
- HTN                              

PSHx: cataracts                        

Meds: atorvastatin 40mg QD, Clopidogrel 75mg QD, metoprolol 25mg
QD, calcium, D3, B12

All: NKDA

SHx: She denies any history of drug alcohol or tobacco abuse. 
Lives in a retirement community.  

 
Physical Exam:
PHYSICAL EXAM AT DISCHARGE
==========================
___ 0349 BP: 154/80 
___ 0321 Temp: 98.5 PO BP: 169/85 HR: 63 RR: 18 O2 sat: 94%
O2 delivery: RA 
___ 2341 Temp: 98.5 PO BP: 156/80 HR: 65 RR: 18 O2 sat: 95%
O2 delivery: RA 

24hr: 
In->PO:   200cc            Fluids:-
O->UOP:    void x3        Other: -

PE: Comfortable
CV: RRR
Pulm: LCTAB
Abd: soft,, mildly TTP in RLQ. No rebound or guarding
Ext: warm, well perfused, pneumoboots in place
 
Pertinent Results:
___ 04:00PM   PLT COUNT-241
___ 04:00PM   NEUTS-82.6* LYMPHS-13.9* MONOS-2.7* EOS-0.0* 
BASOS-0.3 NUC RBCS-0.3* IM ___ AbsNeut-9.68* AbsLymp-1.63 
AbsMono-0.32 AbsEos-0.00* AbsBaso-0.04
___ 04:00PM   WBC-11.7* RBC-4.54 HGB-15.0 HCT-44.2 MCV-97 
MCH-33.0* MCHC-33.9 RDW-11.9 RDWSD-42.7
___ 04:00PM   estGFR-Using this
___ 04:00PM   GLUCOSE-131* UREA N-20 CREAT-0.6 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-24 ANION GAP-16

PELVIS U.S., TRANSVAGINAL Study Date of ___ 5:36 ___

IMPRESSION:   
  
1. Bilateral ovarian unilocular cystic lesions measuring 8.1 x 
6.9 x 8.4 cm on 
the right and 5.4 x 2.3 x 4.1 cm on the left, both containing 
internal debris, 
but no internal vascularity, nodularity or septations.  Findings 
are likely 
reflective of bilateral epithelial ovarian neoplasms, and can be 
further 
assessed with dedicated MRI if needed. 
2. Small amount of free fluid. 
3. Appropriate vascular flow seen within both ovaries.  However, 
due to size 
of these pelvic cystic masses, ovarian torsion cannot be 
excluded on the basis 
of this exam. 

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 5:45 ___ 
IMPRESSION: 
  
1. Re-demonstration bilateral adnexal cystic lesions, grossly 
similar to the previous CT.  Right adnexal mass measures up to 
9.0 x 7.2 x 7.8 cm and left  adnexal mass measures up to 3.8 x 
3.5 x 4.1 cm.  Both cystic lesions appear  unilocular and 
relatively simple in attenuation without internal nodularity or  
septations.  Findings may reflect bilateral ovarian epithelial 
neoplasms and can be better assessed with pelvic MRI. 
2. Small volume ___ ascites, new from prior. 
3. No bowel obstruction or additional acute abnormality 
detected. 

 
Brief Hospital Course:
Ms. ___ presented to the ___ emergency room with 
abdominal pain ___. She had a recently diagnosed pelvic 
mass. She underwent laboratory testing, pelvic ultrasound and CT 
scan, and was admitted to the GYN ONC service for observation 
and pain control.  

On HD1, ___, her pain was controlled with IV mophine, tramadol 
acetaminophen. She was continued on her home dose of clopidogrel 
and received prophylactic subcutaneous heparin.  Neurology was 
consulted to discuss discontinuation of her anticoagulation 
given a recent CVA and anticipitation of upcoming surgery. She 
tolerated sips without nausea or vomiting. 

On HD2, ___, her pain was improved. She had a bowel movement 
and tolerated a regular diet without nausea or vomiting. She was 
transitioned to oral pain medication, and her pain was 
controlled with oral acetaminophen and tramadol.  She was 
discharged in stable condition with outpatient follow up 
scheduled.  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not take more than 4000mg in 24 hours.  
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 8 hours Disp 
#*60 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*1 
3.  TraMADol 50 mg PO Q6H:PRN pain 
Do not drink or drive when taking narcotics. may make you 
drowsy. 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours Disp #*40 
Tablet Refills:*0 
4.  Atorvastatin 40 mg PO QPM  
5.  Clopidogrel 75 mg PO DAILY  
6.  Cyanocobalamin 100 mcg PO DAILY  
7.  Metoprolol Tartrate 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
New pelvic mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the gynecologic oncology service with 
abdominal pain and a new pelvic mass after transferring form an 
outside hospital after evaluation of a stroke. Your pain has 
improved, and the team feels that you are safe to be discharged 
home. Please follow these instructions: 

*** Abdominal pain: 
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) and use the narcotic as 
needed.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* You will be contacted by Dr. ___ for additional 
care coordination for the pelvic mass. 

***Stroke
- You were diagnosed with a stroke at the OSH prior to your 
transfer. You were seen by neurology here, at ___, who 
recommended further work up. This will include ___ 
monitor for 2 weeks, a Echo bubble test, and a follow up 
appointment with their clinic. Please see below for the contact 
information. You will hear from the Echo scheduling office 
shortly. 

Constipation:
Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium. 
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___